US06951875B2
b) 6-(2-p-Tolyl-vinyl) -pyridine-2-carbonitrile
In a variation to the procedure referred to in example 1, 2-(2-p-tolyl-vinyl)-pyridine 1-oxide (9.8 g, 46 mmol) was reacted first with dimethylsulfate ( 5.8 g, 46 mmol) and then with NaCN (2.74 g, 56 mmol). After extraction and crystallization 6-(2-p-tolyl-vinyl)-pyridine-2-carbonitrile (5.8 g, 57%) was obtained as a yellow crystalline material. Mp. 137-138° C. (isopropanol), MS: m/e=220 (M+)

reactant | 2-(2-p-tolyl-vinyl)-pyridine 1-oxide | 46 mmol, 9.8 g | C1(=CC=C(C=C1)C=CC1=[N+](C=CC=C1)[O-])C | C14H13NO
reactant | dimethylsulfate | 46 mmol, 5.8 g | COS(=O)(=O)OC | C2H6O4S
reactant | NaCN | 56 mmol, 2.74 g | [C-]#N.[Na+]
solvent | isopropanol | C(C)(C)O | C3H8O
product | 6-(2-p-Tolyl-vinyl) -pyridine-2-carbonitrile | C1(=CC=C(C=C1)C=CC1=CC=CC(=N1)C#N)C | C15H12N2
